Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.77366538916
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.9189731188
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.52229299166
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11],1.50382550614
[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:7].[O:1][O:2][C:3]([H:4])=[C:5][H:6],5.17952252047
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],1.88859011214
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C@@:8]([O:7])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[C:3](=[C:4]([H:5])[H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-1.10015596115
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],4.89946932021
[C:3]([C:4]([H:5])([H:6])[H:7])([H:9])[H:10].[O:1][C:2]#[C:8][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.85236408505
[H:1][O:2][C:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11][H:12],5.379946405449999
[H:1][C:2]([H:3])=[C:4][O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.88492145781
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:10][H:11].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9],10.5527639402
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],6.03143290175
[O:1]=[C:2][C:8]([C:5]([C:4]=[O:3])([H:6])[H:7])([H:9])[H:10]>>[O:1]=[C:2]1[O:3][C:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-0.90327159898
[H:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],3.1811539308200003
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.75953930829
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:14][H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-5.3166174897000005
[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-8.52914733
[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:10]([H:11])([H:12])[H:13],5.38735354116
[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],1.3922912173299995
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:9]/[O:10][H:11].[H:8],3.07243038371
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5][H:6],5.81472838219
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][O:2][C:3][C:13]([C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],2.99918804629
[C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[H:1][C:3]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-7.32535878722
[H:3].[O:1]=[C:2]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.8699175761
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],7.20045325334
[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[C:3]([O:4][H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2],6.54599750109
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],2.9226717710400005
